US03942761
A mixture of 80 ml. of 2-butanone (1.1 moles), 61.1 grams (0.5 moles) of 5-norbornene-2-carboxaldehyde, and 250 ml. of water containing 6 ml. of 40% sodium hydroxide solution was stirred rapidly at 50°C. for 2 hours when most of the aldehyde had been consumed (as determined by infrared analysis) and an aldol had formed. Stirring was continued and the temperature was slowly raised to 70°C. and kept there for 30 minutes causing dehydration of 75% of the aldol. A small amount of toluene sulfonic acid was added which catalyzed the dehydration of the remaining aldol. 90.8 grams of crude material which was a viscous liquid was distilled through a short Vigreux-column to give 4-(5-norbornenyl)-3-methyl-but-3-en-2-one which had a boiling point of 121°-122°C. at 10 mm., nD 25 = 1.5156.

reactant | 2-butanone | 1.1 moles | CC(CC)=O | C4H8O
reactant | 5-norbornene-2-carboxaldehyde | 0.5 moles, 61.1 grams | C12C(CC(C=C1)C2)C=O | C8H10O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 6 ml | O | H2O
product | 4-(5-norbornenyl)-3-methyl-but-3-en-2-one | C12C=CC(C(C1)C=C(C(C)=O)C)C2 | C12H16O
